US07485634B2
A mixture of (6-benzyloxy-1H-indol-3-ylmethyl)-trimethylammonium iodide (2.2 g, 5 mmol), sodium cyanide (500 mg, 10.2 mmol), and 95% EtOH (50 mL) was refluxed under nitrogen for 5 hours. The solvent was removed in vacuo, and the residue was taken in DCM, and washed with water, then dried with sodium sulfate, and evaporated in vacuo to afford a white solid, which was recrystallized from EtOH to give (6-benzyloxy-1H-indol-3-yl)-acetonitrile (1.25 g, 86%). MS (ES): 263 (MH+).

reactant | (6-benzyloxy-1H-indol-3-ylmethyl)-trimethylammonium iodide | 5 mmol, 2.2 g | [I-].C(C1=CC=CC=C1)OC1=CC=C2C(=CNC2=C1)C[N+](C)(C)C
reactant | sodium cyanide | 10.2 mmol, 500 mg | [C-]#N.[Na+]
solvent | EtOH | 50 mL | CCO | C2H6O
product | (6-benzyloxy-1H-indol-3-yl)-acetonitrile | 1.25 g, 86% | C(C1=CC=CC=C1)OC1=CC=C2C(=CNC2=C1)CC#N | C17H14N2O
